US04147793
2-(1,2,4-Triazol-1-yl)-3-phenyl-4'-chlorobutyrophenone
2-(1,2,4-Triazol-1-yl)-4'-chloroacetophenone (0.01 mol) was dissolved in dimethylformamide (5.0 ml) at room temperature and treated with sodium hydride (0.01 mol). When the reaction was complete (3 hours), the mixture was cooled to 0° and α-methylbenzyl chloride (0.01 mol) was added dropwise with stirring. After stirring at room temperature for 20 hours, the mixture was poured into water and the product filtered off. Recrystallisation from chloroform/petroleum ether (60°-80°) gave the title compound as a colourless crystalline solid, m.p. 163°-5°.

reactant | 2-(1,2,4-Triazol-1-yl)-4'-chloroacetophenone | 0.01 mol | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)Cl | C10H8ClN3O
reactant | sodium hydride | 0.01 mol | [H-].[Na+]
reactant | α-methylbenzyl chloride | 0.01 mol | CC(C1=CC=CC=C1)Cl | C8H9Cl
reactant | water | O | H2O
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 2-(1,2,4-Triazol-1-yl)-3-phenyl-4'-chlorobutyrophenone | N1(N=CN=C1)C(C(=O)C1=CC=C(C=C1)Cl)C(C)C1=CC=CC=C1 | C18H16ClN3O
